US07223767B2
2-Allyl-2-propylcyclohexanone (2.96 g, 16.4 mmol) and PtO2 (300 mg) were combined in MeOH (100 mL) and hydrogenated at 1 atm for 4 hrs. The catalyst was filtered off and the solvent evaporated to afford 2.78 g (93%) of 2,2-dipropylcyclohexanone as a colorless liquid. MS (CI) 183 (M+H).

reactant | 2-Allyl-2-propylcyclohexanone | 16.4 mmol, 2.96 g | C(C=C)C1(C(CCCC1)=O)CCC | C12H20O
solvent | MeOH | 100 mL | CO | CH4O
catalyst | PtO2 | 300 mg | O=[Pt]=O
product | 2,2-dipropylcyclohexanone | 2.78 g, 93% | C(CC)C1(C(CCCC1)=O)CCC | C12H22O
